US05207947
(2) 4-(1,1,1-Trifluoro-2-octyloxycarbonyl)phenyl 4-n-octyloxybiphenyl-4'-carboxylate
To a mixture of the 1,1,1-trifluoro-2-octyl 4-hydroxybenzoate prepared above (0.53 g) and triethylamine (0.18 g) in methylene chloride (10 ml) was slowly added c under ice cooling a solution of 4-n-octyloxybiphenyl-4'-carboxylic acid chloride (0.73 g) in methylene chloride (10 ml). After the mixture was left to stand until it reached room temperature, it was stirred overnight. The mixture was poured in water and extracted with methylene chloride. The extracted layer was washed with dilute aqueous hydrochloric acid solution, water, 1N aqueous sodium carbonate solution and water, in this order, and dehydrated over anhydrous magnesium sulfate. After the solution was distilled under reduced pressure to remove the solvent, the residue was purified by silica-gel column chromatography to obtain the titled compound (0.4 g, [α]D20 =+32.2).

reactant | 1,1,1-trifluoro-2-octyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC(C(F)(F)F)CCCCCC)C=C1 | C15H19F3O3
reactant | triethylamine | 0.18 g | C(C)N(CC)CC | C6H15N
reactant | 4-n-octyloxybiphenyl-4'-carboxylic acid chloride | 0.73 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C21H25ClO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-(1,1,1-Trifluoro-2-octyloxycarbonyl)phenyl 4-n-octyloxybiphenyl-4'-carboxylate | 0.4 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)C(=O)OC(C(F)(F)F)CCCCCC | C36H43F3O5
